US04515799
2-Carbamoylmethyl-5-{[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}-(2H)-tetrazole
A mixture of 5-{[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}-2-methoxycarbonylmethyl-(2H)-tetrazole (0.52 g), dioxane (15 ml) and 0.880 aqueous ammonium hydroxide solution (10 ml) was stirred at room temperature for 2.5 hours and then evaporated. The residual oil was partitioned between water and ethyl acetate and the organic layer washed with water, dried (Na2SO4) and evaporated. The residual oil was triturated with diethyl ether and the resulting solid collected, washed with diethyl ether and dried to give the title compound (0.31 g), m.p. 101°-103° decomp.

reactant | 5-{[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}-2-methoxycarbonylmethyl-(2H)-tetrazole | 0.52 g | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCC=1N=NN(N1)CC(=O)OC)C(=O)OCC | C23H26ClN5O7
reactant | ammonium hydroxide | 10 ml | [OH-].[NH4+]
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 2-Carbamoylmethyl-5-{[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}-(2H)-tetrazole | 0.31 g | C(N)(=O)CN1N=C(N=N1)COCC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)Cl)C(=O)OC)C | C22H25ClN6O6
